US03947466
Example 28: 8-Nitro-1-(aminomethyl)-6-(o-chlorophenyl)4H-s-triazolo[4,3-a][1,4]benzodiazepine
In the manner given in Example 22, 5-nitro-2'-chloro-2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone in ethanol is heated with hydrazine hydrate to give 8-nitro-1-(aminomethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]enzodiazepine.

reactant | 5-nitro-2'-chloro-2-[3,5-bis(phthalimidomethyl)-4H-1,2,4-triazol-4-yl]benzophenone | [N+](=O)([O-])C=1C=CC(=C(C(=O)C2=C(C=CC=C2)Cl)C1)N1C(=NN=C1CN1C(C=2C(C1=O)=CC=CC2)=O)CN2C(C=1C(C2=O)=CC=CC1)=O | C33H19ClN6O7
reactant | hydrazine hydrate | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 8-Nitro-1-(aminomethyl)-6-(o-chlorophenyl)4H-s-triazolo[4,3-a][1,4]benzodiazepine | [N+](=O)([O-])C=1C=CC2=C(C(=NCC=3N2C(=NN3)CN)C3=C(C=CC=C3)Cl)C1 | C17H13ClN6O2
